Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:6],1.81555928734
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.97090678076
[O:1][C:2]#[C:3][H:4]>>[C:3][H:4].[O:1]=[C:2],4.77617658659
[H:1][C:2][O:3][C:4][C:5]#[C:6][O:8][H:9].[H:7]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-4.02245109552
[H:1][C:2][O:3][C:4]([H:5])[C:6][C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8].[H:9],4.62213944318
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11][H:12],4.75734430759
[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]1=[C:5]([H:6])[C@:7]1([H:8])[C:9]([H:10])[H:11],0.45146506775
[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.13036169064
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1](=[C:2]=[O:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.81533793006
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][H:9].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9],-2.20804772245
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.88658474545
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][O:4],3.21799566427
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11],-0.282265612439
[C:7](=[O:8])[H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9],-5.81599986102
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1],4.32071311405
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8][H:9],4.57472381956
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],-3.72762455868
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.02895294895
[C:1](/[C:2]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])([H:11])([H:12])[H:13].[C:3]#[C:10]>>[C:1]#[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.212687905599999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.93897395934
[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[O:3]=[C:4]([H:5])[H:6]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-0.00725070720091
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.181472370699
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.96610093642
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],0.978485988579
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2](=[O:3])[C:13]([C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15],-0.55638001082
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.27828127159000005
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-5.17260787982
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.80649115072
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.71878255035
